US03989832
EXAMPLE 47- PREPARATION OF 3-(1-METHYL-2-NITRO-5-IMIDAZOLYL)-6-DIMETHYLAMINO-S-TRIAZOLO[4,3-b]PYRIDAZINE
0.5 g. 3-(1-methyl-2-nitro-5-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine were dissolved, with heating, in 10 ml. dimethyl formamide and gaseous dimethylamine passed in at 60° C. over the course of 15 minutes. The resultant suspension was then diluted with 6 ml. water, filtered with suction, first washed with aqueous dimethyl formamide, then with water and finally with methanol. There was thus obtained 0.4 g. (78 percent of theory) of the desired 3-(1-methyl-2-nitro-5-imidazolyl)-6-dimethylamino-s-triazolo[4,3-b]pyridazine in the form of yellow crystals which melt, with decomposition, at 261° - 263° C.

reactant | 3-(1-methyl-2-nitro-5-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine | CN1C(=NC=C1C1=NN=C2N1N=C(C=C2)Cl)[N+](=O)[O-] | C9H6ClN7O2
reactant | dimethylamine | CNC | C2H7N
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 3-(1-METHYL-2-NITRO-5-IMIDAZOLYL)-6-DIMETHYLAMINO-S-TRIAZOLO[4,3-b]PYRIDAZINE | CN1C(=NC=C1C1=NN=C2N1N=C(C=C2)N(C)C)[N+](=O)[O-] | C11H12N8O2
